US06124283
(R)-N-[8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]methanesulfonamide
To an ice-cooled solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (120 mg, 0.49 mmol) and triethylamine (0.50 mL, 3.6 mmol) in pyridine (15 mL) was added dropwise methanesulfonyl chloride (62 μL, 0.54 mmol). After the addition the reaction was allowed to stir at ambient temperature for 1 h. The solvent was evaporated in vacuo and the residue was purified on a silica gel column using chloroform/methanol/concentrated ammonium hydroxide (95:5:0.5) as the eluent. This gave, after crystalization from diethyl ether, 100 mg (63% yield) of the title compound as white crystals: mp 135-137° C.; [α]21D +22° (c 0.50, chloroform); EIMS (70 eV) m/z (relative intensity) 323 (59, M+).

reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.49 mmol, 120 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
reactant | triethylamine | 3.6 mmol, 0.50 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.54 mmol, 62 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | (R)-N-[8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]methanesulfonamide | 100 mg, 63% yield | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NS(=O)(=O)C | C16H25N3O2S
